US07256164B2
This example illustrates the use in an anionic surfactant composition of an octenylsuccinic acid liquid-stabilizing agent. An aqueous disodium octenylsuccinate (about 35%) was prepared from octenyl succinic anhydride (OSA from Dixie Chemical, Houston, Tex.) and aqueous sodium hydroxide. According to the manufacturer of the OSA, this material is reportedly predominantly 1-OSA, but some 2-OSA is also present.

reactant | octenylsuccinic acid | C(=CCCCCCC)C(C(=O)O)CC(=O)O | C12H20O4
reactant | octenyl succinic anhydride | C(=CCCCCCC)C1C(=O)OC(C1)=O | C12H18O3
reactant | sodium hydroxide | [OH-].[Na+]
product | disodium octenylsuccinate | about 35% | C(=CCCCCCC)C(C(=O)[O-])CC(=O)[O-].[Na+].[Na+] | InChI=1S/C12H20O4.2Na/c1-2-3-4-5-6-7-8-10(12(15)16)9-11(13)14;;/h7-8,10H,2-6,9H2,1H3,(H,13,14)(H,15,16);;/q;2*+1/p-2
